US07935854B2
20.0 g (48.9 mmol) of 9-(4-bromophenyl)-10-phenylanthracene was put into a 500 mL three-necked flask. Then, the atmosphere in the flask was substituted with nitrogen. After 300 mL of tetrahydrofuran (abbreviation: THF) was added to this flask, the flask was put into a constant low temperature bath and the reaction solution was cooled to −78° C. 34.2 mL (53.8 mmol) of n-butyllithium (1.57 mol/L hexane solution) was dropped into this solution and the solution was stirred at −78° C. for 2 hours. Thereafter, 12.6 mL (112 mmol) of trimethyl borate was added to the solution. Then, the flask was taken out from the constant low temperature bath, and the reaction solution was stirred for 24 hours to be returned to room temperature. After the reaction was completed, 200 mL of 1.0 mol/L hydrochloric acid was added to the reaction solution and the reaction solution was stirred at room temperature for 1 hour. An organic layer of the mixture was washed with water and the aqueous layer was extracted with ethyl acetate. The extracted solution was mixed with the organic layer, and the mixture was washed with a saturated aqueous sodium chloride solution, and then dried over magnesium sulfate. After the drying, this mixture was subjected to suction filtration, and the filtrate was condensed to obtain a residue. The obtained residue was recrystallized by a mixed solvent of chloroform and hexane; 15.3 g of objective 4-(10-phenyl-9-anthryl)phenylboronic acid was obtained as a white powdered solid in a yield of 84%. A synthetic scheme of 4-(10-phenyl-9-anthryl)phenylboronic acid is illustrated below (synthetic scheme b-5).

reactant | 9-(4-bromophenyl)-10-phenylanthracene | 48.9 mmol, 20.0 g | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | n-butyllithium | 53.8 mmol, 1.57 mol/L, 34.2 mL | C(CCC)[Li]
reactant | trimethyl borate | 112 mmol, 12.6 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1.0 mol/L, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-(10-phenyl-9-anthryl)phenylboronic acid | 15.3 g, yield of 84% | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)B(O)O | C26H19BO2
